US06465478B1
3-Methoxycarbonylmethyl-1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one
A mixture of 3-t-butoxycarbonylmethyl-1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one (prepared in Preparation 4, 100 mg, 0.193 mmol) and HCl solution in methanol (10 ml) was stirred at 60° C for 16 h. After evaporation of the solvent, the residue was basified with 25% NH4OH and extracted with CH2Cl2. The extracts combined were dried(Na2SO4), filtered, and concentrated. The residue was purified by preparative TLC (1 mm plate×2, hex/acetone:5/2) to give 68.8 mg (75.1%)of title compound as white amorphous solid.

reactant | 3-t-butoxycarbonylmethyl-1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one | 0.193 mmol, 100 mg | C(C)(C)(C)OC(=O)CN1CN(C2(C1=O)CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)C2=CC=CC=C2 | C32H43N3O3
reactant | HCl | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 3-Methoxycarbonylmethyl-1-phenyl-8-(1-phenylcycloheptyl)-1,3,8-triazaspiro[4.5]decan-4-one | 68.8 mg, 75.1% | COC(=O)CN1CN(C2(C1=O)CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)C2=CC=CC=C2 | C29H37N3O3
